US09402833B2
To a stirred solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid (170 mg, 0.49 mmol) in dry DCM (10 mL) was added EDCI (288 mg, 1.5 mmol) followed by DMAP (0.18 g, 1.4 mmol) and stirring was continued at 25° C. for 2 h. To the reaction mixture was added tert-butyl sulfonamide (67 mg, 0.49 mmol) and the stirring was continued at 25° C. for 72 h. Reaction mixture was diluted with DCM (50 mL) and the organic layer was washed with saturated aqueous KHSO4 solution followed by brine, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude, which was purified by combiflash chromatography followed by re-crystalisaiton from EtOH to afford (R)-N-(tert-butylsulfonyl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide as white solid. MS (ESI): m/z 463.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.49 mmol, 170 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)O | C18H15F2N3O2
reactant | EDCI | 1.5 mmol, 288 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | tert-butyl sulfonamide | 0.49 mmol, 67 mg | C(C)(C)(C)S(=O)(=O)N | C4H11NO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.4 mmol, 0.18 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-(tert-butylsulfonyl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | C(C)(C)(C)S(=O)(=O)NC(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F | C22H24F2N4O3S
